US06677335B1
2-[(tert-Butoxycarbonyl)(methyl)amino]ethyl methanesulphonate
Methanesulphonyl chloride (2.98 ml, 38.6 mmol) was added to an ice-cold solution of tert-butyl 2-hydroxyethyl(methyl)carbamate (Synth. Commun. 1993; 23(17); 2443) (4.5 g, 25.7 mmol) in pyridine (40 ml), and the reaction stirred for 2 hours. The solution was poured into water (150 ml), and extracted with ethyl acetate (2-50 ml). The combined organic extracts were washed with 10% aqueous citric acid solution, dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:pentane (34:66 to 40:60) to give the title compound, 1.0 g.

reactant | Methanesulphonyl chloride | 38.6 mmol, 2.98 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 25.7 mmol, 4.5 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | water | 150 ml | O | H2O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(tert-Butoxycarbonyl)(methyl)amino]ethyl methanesulphonate | CS(=O)(=O)OCCN(C)C(=O)OC(C)(C)C | C9H19NO5S
